US07074817B2
Ethyl [1-benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetate
Ethyl [1-benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetate was prepared from 1-benzyl-7-(3-chloro-4-fluorophenyl)-1H-indole (0.182 g, 0.542 mmol), oxalyl chloride (0.28 mL, 3.3 mmol), and ethanol (0.75 mL) following the procedure described in Step 3 of Example 1. Purification by HPLC using 20% ethyl acetate in hexane as the mobile phase yielded the title compound as a hard yellow gum (0.143 g, 61%). 1H N MR (300 MHz, D MSO-d6): δ 8.7 (s, 1H), 8.35 (d, 1H, J=7.5 Hz), 7.3-7.4 (m, 2H), 7.0-7.25 (m, 6H), 6.35 (d, 2H, J=7.5 Hz), 5.35 (d, 1H, J=15.8 Hz), 5.15 (d, 1H, J=15.8 Hz), 4.35 (q, 2H, J=7.5 Hz), and 1.35 ppm (t, 3H, J=7.5 Hz).

reactant | 1-benzyl-7-(3-chloro-4-fluorophenyl)-1H-indole | 0.542 mmol, 0.182 g | C(C1=CC=CC=C1)N1C=CC2=CC=CC(=C12)C1=CC(=C(C=C1)F)Cl | C21H15ClFN
reactant | oxalyl chloride | 3.3 mmol, 0.28 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 0.75 mL | C(C)O | C2H6O
product | Ethyl [1-benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetate | 0.143 g, 61% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC(=C12)C1=CC(=C(C=C1)F)Cl)C(C(=O)OCC)=O | C25H19ClFNO3
